US07691902B2
L-Proline (57 mg, 0.50 mmol) was treated with N,O-bis(trimethylsilyl)acetamide (250 μl, 1.0 mmol) in 1 mL dioxane overnight at 50° C. To this mixture was added 5′-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-2′-methylbiphenyl-4-sulfonyl chloride (˜35 μmol, 400 μl solution in chloroform) followed by DIEA (100 μL). The reaction mixture was kept at room temperature for 1 h, evaporated, and diluted with DMSO (400 μl). The resulting solution was subjected to preparative HPLC purification. Fractions containing the desired material were combined and concentrated in vacuum centrifuge at 40° C. to provide the trifluoroacetic salt of (S)-1-{5′-[(1-Benzo[1,3]dioxol-5-yl-cyclopropanecarbonyl)-amino]-2′-methyl-biphenyl-4-sulfonyl}-pyrrolidine-2-carboxylic acid. ESI-MS m/z calc. 548.1, found 549.1 (M+1), retention time 3.40 min; 1H NMR (250 MHz, DMSO-d6) δ 1.04 (m. 2H), δ 1.38 (m, 2H), δ 1.60 (m, 1H), δ 1.80-1.97 (m, 3H) δ 2.16 (s, 3H), δ 3.21 (m, 1H), 3.39 (m, 1H), 4.15 (dd, 1H, J=4.1 Hz, J=7.8 Hz), δ 6.01 (s, 2H), δ 6.89 (s, 2H), δ 6.98 (s, 1H), δ 7.21 (d, 1H, J=8.3 Hz), δ 7.45 (d, 1H, J=2 Hz), δ 7.52 (dd, 1H, J=2 Hz, J=8.3 Hz), δ 7.55 (d, 2H, J=8.3 Hz), δ 7.88 (d, 2H, J=8.3 Hz), δ 8.80 (s, 1H).

reactant | L-Proline | 0.50 mmol, 57 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | N,O-bis(trimethylsilyl)acetamide | 1.0 mmol, 250 μl | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | 5′-(1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-2′-methylbiphenyl-4-sulfonyl chloride | ˜35 μmol, 400 μl | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=CC(=C(C2)C2=CC=C(C=C2)S(=O)(=O)Cl)C | C24H20ClNO5S
reactant | DIEA | 100 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | (S)-1-{5′-[(1-Benzo[1,3]dioxol-5-yl-cyclopropanecarbonyl)-amino]-2′-methyl-biphenyl-4-sulfonyl}-pyrrolidine-2-carboxylic acid | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=CC(=C(C2)C2=CC=C(C=C2)S(=O)(=O)N2[C@@H](CCC2)C(=O)O)C | C29H28N2O7S
